US07323475B2
d′) 2-(2,4-Dimethoxy-benzyl)-4-hydroxy-7-phenoxy-1,2-dihydro-isoquinoline-3-carboxylic acid ethyl ester
460 mg of 2-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-4-phenoxy-benzoic acid ethyl ester was dissolved in 16 mL of anhydrous THF and the resultant solution cooled to −78 deg C. under a nitrogen atmosphere. To the solution was added 1.95 mL of 1.0 M lithium bis(trimethylsilyl) amide in THF. The reaction was stirred at −78 deg C. for 1.5 h, and at room temperature for 4.5 hours. The resultant solution was poured into a solution of saturated aqueous ammonium chloride and extracted three times with ethyl acetate. The organic fractions were washed with brine, dried over anhydrous sodium sulfate and concentrated to yellow oil. The oil was flash columned on silica gel, eluting with a gradient of 20-75% ethyl acetate in hexanes. The eluted fractions were concentrated under reduced pressure to 373 mg of a yellow oil, which was determined to be a mixture of the enol and keto tautomers of the desired product; MS (+) m/z 484.20 (m+23).

reactant | 2-{[(2,4-Dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-4-phenoxy-benzoic acid ethyl ester | 460 mg | C(C)OC(C1=C(C=C(C=C1)OC1=CC=CC=C1)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC)=O | C29H33NO7
reactant | lithium bis(trimethylsilyl) amide | 1.0 M, 1.95 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 16 mL | C1CCOC1 | C4H8O
product | 2-(2,4-Dimethoxy-benzyl)-4-hydroxy-7-phenoxy-1,2-dihydro-isoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(CC2=CC(=CC=C2C1O)OC1=CC=CC=C1)CC1=C(C=C(C=C1)OC)OC | C27H27NO6
